US07846959B2
A solution of 1,1-dimethylethyl (3-chloro-2,6-difluorophenyl)carbamate (437 mg, 1.66 mmol) in methanol (2 mL) was treated with 4 N hydrochloric acid in dioxane (2 mL) and heated for 1 min with a heat gun. After cooling, the volatile materials were removed in vacuo. The resulting residue was taken up in ethyl acetate and washed with sodium bicarbonate (sat). The organic phase was dried over magnesium sulfate, filtered, and concentrated yielding 3-chloro-2,6-difluoroaniline as a white solid (250 mg, 1.53 mmol, 92%). MS (EI) for C6H4ClF2N: 164 (MH+).

reactant | 1,1-dimethylethyl (3-chloro-2,6-difluorophenyl)carbamate | 1.66 mmol, 437 mg | ClC=1C(=C(C(=CC1)F)NC(OC(C)(C)C)=O)F | C11H12ClF2NO2
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 3-chloro-2,6-difluoroaniline | 1.53 mmol, 250 mg, 92% | ClC=1C(=C(N)C(=CC1)F)F | C6H4ClF2N
